US05256780
The mixture of 3-allyl-2-indolecarboxylic acid methyl ester (13.1 g) and lithium borohydride (2.65 g) in tetrahydrofuran (100 ml) was refluxed for 3 hours. After cooling, the reaction mixture was diluted with chilled water, made acidic with 2N-hydrochloric acid. The mixture was neutralized with aqueous sodium bicarbonate solution and extracted twice with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give 3-allyl-2-hydroxymethylindole (11.2 g) as an oil. The oil was used in the next reaction without further purification.

reactant | 3-allyl-2-indolecarboxylic acid methyl ester | 13.1 g | COC(=O)C=1NC2=CC=CC=C2C1CC=C | C13H13NO2
reactant | lithium borohydride | 2.65 g | [BH4-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-allyl-2-hydroxymethylindole | 11.2 g | C(C=C)C1=C(NC2=CC=CC=C12)CO | C12H13NO
